Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fevers

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ male with a PMHx of HCV cirrhosis s/p OLT 
in ___ c/b biliary stricutre s/p stenting and treatment with 
sofosbuvir who presented to the ED after liver biopsy with 
fever, chills, nause, vomiting, and headache. 

Patient had been in his usual state of health until a liver 
biopsy on ___ which was done for progressively rising LFTs to 
evaluate for rejection. He has labs done at ___ in ___, 
so his most recent results are not available in OMR On 
preliminary report, the procedure was uncomplicated. He felt 
fine until 2.5 hours after the procedure when he developed 
headache (retroorbital pain, gets them 1x/month, got two APAP 
and sent home). At home, he developed suddetn onset 
uncontrollable shaking and chills. His wife took his temp which 
was 101.1 then 101.3; she called EMS which recorded T 104 and 
102. At 17:30, patient was still shaking and vomited once, 
nonbloody and nonbilious. Patient has had some runny nose but 
otherwise he dnies cough, chest pain, dyspnea, urinary symptoms, 
change in BMs focal weakness, and rash/skin changes. He had had 
a sore left lower molar that he describes as an intermittent 
toothache. 

Of note, he was hospitalized from ___ for ___ and 
___ concerning for graft rejection. ___ improved with 
IVF. Liver biopsy showed no evidence of rejection. He underwent 
ERCP on ___ with biliary sphincterotomy and stent placement in 
the main biliary duct. Transaminases downtrended and 
immunosuppression was continued. 

- Initial VS were: T 102.4, BP 141/79, HR ___, SaO2 96-100% 
on RA
- Exam was notable for minimal abdominal tenderness, no 
meningeal signs
- Labs were notable for WBC 1.2 (48%N and 10%Bands), H/H 
10.1/27.7 (baseline), AST/ALT 645/420, AlP 194, TBili 1.6 (all 
elevated from prior), BUN/Cr ___ (baseline), lactate 1.3, flu 
swab negative
- RUQ US showed redemonstration of a 3.8 x 2.5 x 0.9 cm fluid 
collection anterior to the liver, consistent with hematoma after 
liver biopsy which is the same size compared to US from 12 hours 
prior
- He was given 2L IVF, 650mg PO APAP x2, 1g vancomycin, and 4.5g 
pip/tazo
- Hepatology was consulted and recomended infectious workup, 
empiric antibiotics, and admission to ET
- VS prior to transfer were: T 100.1 HR 86 BP 127/73 RR 18 SaO2 
99% RA 
  
ROS: As detailed in HPI. All other systems are negative. 

 
Past Medical History:
- HCV/EtOH cirrhosis s/p OLT in ___, c/b biliary stricture 
s/p stenting
- HCV genotype ___ s/p ___ weeks of sofosbuvir and ribavirin 
leading up to his transplant; he has since been cured with 
negative viral load three months following his liver transplant
- Post-transplant CKD
- Headaches
- Moderate malnutrition 
- Heart murmur
- H/o leukopenia secondary to CellCept
- Inguinal hernia repairs in the ___.  
- Tonsillectomy in the ___.
 
Social History:
___
Family History:
No family history of liver disease or malignancy other than skin 
cancer in mother and father  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: T 98.6 BP 146/84 HR 85 RR 15 SaO2 100% on RA  
General: No acute distress, cooperative  
HEENT: NC/AT, sclera anicteric, no conjunctival injection or 
pallor, OP is clear, left lower molar #19 (?) which patient 
notes has intermittent pain has a partially receeding gumline 
but no pus/abscess noted  
Neck: supple, no LAD, no JVP elevation  
CV: RRR, normal s1/s2, no m/r/g  
Lungs: Non-labored, CTAB  
Abdomen: Well-healed RUQ scar, site of liver biopsy is dressed 
with gauze and tegaderm that is c/d/i, soft, nontender, 
nondistended, normoactive bowel sounds  
Ext: warm, 2+ DP pulses, no edema  
Neuro: alert, oriented x 3, says days of week backwards, CN 
II-XII intact, strength ___ throughout  
Skin: dry, no rash  

DISCHARGE PHYSICAL EXAM:
VS: 97.8  ___  ___  18  97-100%RA
General: A+Ox3, NAD, well appearing male; eating breakfast
HEENT: sclera anicteric, oropharynx normal with MMM, EOMI
CV: RRR, normal S1 and S2, no MRG
Lungs: No increased WOB
Abdomen: soft, nontender to palpation
Ext: no peripheral edema, warm and well perfused, moving 
arms/legs spontaneously, normal sensation in lower extremities
 
Pertinent Results:
ADMISSION:
=========

___ 05:48AM   GLUCOSE-131* UREA N-17 CREAT-1.4* SODIUM-136 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-22 ANION GAP-14
___ 05:48AM   ALT(SGPT)-484* AST(SGOT)-287* ALK PHOS-157* 
TOT BILI-1.5 DIR BILI-1.2* INDIR BIL-0.3
___ 05:48AM   ALBUMIN-3.8 CALCIUM-8.5 PHOSPHATE-1.8*# 
MAGNESIUM-1.4*
___ 05:48AM   CYCLSPRN-32*
___ 05:48AM   WBC-1.2* RBC-2.71* HGB-8.9* HCT-25.0* MCV-92 
MCH-32.8* MCHC-35.6* RDW-12.8
___ 05:48AM   PLT COUNT-134*
___ 05:48AM   ___ PTT-30.8 ___
___ 07:40PM   ___ PTT-32.6 ___
___ 07:30PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 07:07PM   LACTATE-1.3
___ 07:00PM   GLUCOSE-144* UREA N-22* CREAT-1.6* SODIUM-138 
POTASSIUM-4.2 CHLORIDE-103 TOTAL CO2-21* ANION GAP-18
___ 07:00PM   estGFR-Using this
___ 07:00PM   ALT(SGPT)-645* AST(SGOT)-420* ALK PHOS-194* 
TOT BILI-1.6*
___ 07:00PM   ALBUMIN-4.3
___ 07:00PM   WBC-1.2* RBC-3.05* HGB-10.1* HCT-27.7* MCV-91 
MCH-33.1* MCHC-36.4* RDW-12.8
___ 07:00PM   NEUTS-48* BANDS-10* ___ MONOS-9 EOS-7* 
BASOS-1 ___ MYELOS-0
___ 07:00PM   HYPOCHROM-1+ ANISOCYT-NORMAL POIKILOCY-1+ 
MACROCYT-NORMAL MICROCYT-NORMAL POLYCHROM-NORMAL FRAGMENT-1+
___ 07:00PM   PLT SMR-NORMAL PLT COUNT-183
___ 08:15AM URINE  HOURS-RANDOM
___ 08:15AM URINE  UHOLD-HOLD
___ 08:15AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 08:15AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.0 
LEUK-NEG
___ 08:15AM URINE  RBC-1 WBC-1 BACTERIA-MOD YEAST-NONE 
EPI-0
___ 08:15AM URINE  AMORPH-OCC
___ 08:15AM URINE  MUCOUS-RARE
___ 08:10AM   WBC-2.1* RBC-3.07* HGB-10.0* HCT-28.8* MCV-94 
MCH-32.4* MCHC-34.5 RDW-12.8
___ 08:10AM   PLT COUNT-233
___ 08:10AM   ___

IMMUNOSUPPRESSIVE LEVELS:
========================
___ 07:30AM BLOOD tacroFK-5.3

___
Test                          Result              Reference 
Range/Units
EVEROLIMUS, BLOOD             3.4                 see note ng/mL

PATHOLOGY:
==========
Liver, allograft,needle core biopsies:
1) Acute cellular rejection with mild portal inflammatory 
infiltrate comprised predominantly of
lymphocytes with prominent eosinophils and rare plasma cells 
with portal endothelialitis and
lymphocytic cholangitis.
2) No significant steatosis is seen.
3) Immunostain for CMV is negative with adequate control.
4) Trichrome stain shows mild partial expansion.
5) Iron stain shows no stainable iron.
Note: The findings are consistent with mild acute cellular 
rejection. It is difficult to evaluate for
recurrent HCV in this setting.

IMAGING:
========
___/ RUQ ULTRASOUND:
IMPRESSION:  
1.  Normal ultrasound of the transplant liver. 
2. Stable subcutaneous postoperative seroma/ hematoma as 
described above. 

___ CXR
FINDINGS:  
The lungs are clear without focal consolidation.  No pleural 
effusion or 
pneumothorax is seen. The cardiac and mediastinal silhouettes 
are 
unremarkable. 
IMPRESSION:    
No acute cardiopulmonary process. 

___ RP ULTRASOUND:
FINDINGS:  
Again seen is a 3.8 x 2.5 x 0.9 cm subcutaneous fluid collection 
anterior to the liver, consistent with hematoma, unchanged in 
size compared to the most recent liver ultrasound, earlier 
today. Limited views of the liver demonstrate no acute 
abnormality. 
  
IMPRESSION:  
Unchanged subcutaneous fluid collection anterior to the liver, 
likely 
consistent with hematoma/seroma. 

MICROBIOLOGY:
==============
___ 5:48 am IMMUNOLOGY

                            **FINAL REPORT ___

   HCV VIRAL LOAD (Final ___: 
      HCV-RNA NOT DETECTED. 
      Performed using Cobas Ampliprep / Cobas Taqman HCV v2.0 
Test. 
      Linear range of quantification: 1.50E+01 IU/mL - 1.00E+08 
IU/mL. 
      Limit of detection: 1.50E+01 IU/mL. 

___ 1:46 pm Immunology (CMV)

                            **FINAL REPORT ___

   CMV Viral Load (Final ___: 
      CMV DNA not detected. 
      Performed by Cobas Ampliprep / Cobas Taqman CMV Test. 
      Linear range of quantification: 137 IU/mL - 9,100,000 
IU/mL. 
      Limit of detection 91 IU/mL. 
      This test has been verified for use in the ___ patient 
population

DISCHARGE LABS:
================
___ 07:30AM BLOOD WBC-7.0 RBC-2.88* Hgb-9.4* Hct-27.0* 
MCV-94 MCH-32.7* MCHC-34.9 RDW-13.8 Plt ___
___ 07:30AM BLOOD ___ PTT-28.4 ___
___ 07:30AM BLOOD Glucose-108* UreaN-16 Creat-1.3* Na-141 
K-3.5 Cl-104 HCO3-28 AnGap-13
___ 07:30AM BLOOD ALT-148* AST-43* AlkPhos-73 TotBili-0.3
___ 07:30AM BLOOD Calcium-8.8 Phos-3.7 Mg-1.9
 
Brief Hospital Course:
This is a ___ male with a PMHx of HCV/EtOH cirrhosis s/p 
 OLT in ___ with HCV cure but c/b biliary stricutre s/p 
stenting presenting after liver biopsy for transaminitis with 
fevers and leukopenia consistent with sepsis found to have mild 
acute liver rejection

# Sepsis: Presented with fevers and leukopenia with a 10% 
bandemia which developed hours after liver biopsy on ___. 
Given the timing, the most likely source of infection was 
thought to be transient bacteremia after liver biopsy. Blood and 
urine cultures were sent and he was started on vancomycin/zosyn. 
Vancomycin was discontinued after 48 hours and he completed a 
5-day course of zosyn without recurrent febrile episode. 

# HCV/EtOH Cirrhosis s/p OLT with Mild Acute Rejection: Patient 
presented with AST/ALT that were elevated compared to most 
recent values from ___, as well as mild 
hyperbilirubinemia. Liver biopsy was done as an outpatient on 
___ for these rising LFTs. Results returned with evidence of 
mild acute rejection. HCV and CMV viral loads were undetectable. 
 Blood levels of both cyclosporine and everolimus were sub 
therapeutic, however. This was thought to be due to a complex 
drug-drug interaction. Cyclosporine was increased to 150mg BID 
and everolimus was increased to 3mg BID, without effect. Due to 
this drug interaction, the patient was started on tacrolimus, 
and cyclosporine was discutoninued. Levels were monitored and on 
discharge his tacrolimus dose was 5mg Q12 and his everolimus 
dose was 4mg BID. His most recent levels were 5.3 and 3.4 
respectively.  For acute rejection, he was treated with 5 days 
of 500mg solumedrol starting on ___. LFTs decreased by over 
50% on this regimen. He was transitioned to 20mg prednisone 
daily and planned for a taper over the course of several weeks.

# Post-transplant CKD: Baseline Cr is 1.4-1.7, and was 1.3 at 
discharge.

# Moderate malnutrition: Nutrition was consulted, who 
recommended ensure plus TID with meals.

# Possible hepatic arterial stenosis: Patent portal vasculature 
was seen on RUQ U/S. Continued on aspirin.

# Hypertension: amlodipine and metoprolol were held in setting 
of possible sepsis initially. After receiving steroids, the 
patient developed hypertension, so home amlodipine was restarted 
and increased to 10mg daily. Metoprolol was discontinued his 
blood pressures were within normal levels with only amlodipine.

# Headaches: Felt to be possibly related to immunosuppression 
side effect given the patient's temporal association. He was 
treated with Acetaminophen as needed, and this had resolved at 
discharge.

# Depression: Continued on sertraline.

# GERD: Continued on omeprazol.

TRANSITIONAL ISSUES:
- patient will need to be on Valcyte for at least 3 months 
starting from ___
- patient will need to be on Bactrim for at least ___ year 
starting from ___
- Prednisone taper: 20mg for one week, then decrease by 5mg 
every week thereafter.
- Monitor tacrolimus and everolimus levels
- Goal tacrolimus level is ___
- Goal everolimus level is ___
- increased amlodipine from 5 mg daily to 10 mg daily
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Aspirin 325 mg PO QPM 
3. FoLIC Acid 3 mg PO DAILY 
4. Metoprolol Tartrate 25 mg PO BID 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Sertraline 200 mg PO DAILY 
8. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
9. Vitamin D ___ UNIT PO DAILY 
10. CycloSPORINE (Neoral) MODIFIED 100 mg PO BID 
11. ValGANCIclovir 450 mg PO EVERY OTHER DAY 
12. Everolimus 2 mg PO BID 
13. Docusate Sodium 100 mg PO BID:PRN constipation 
14. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
2. Aspirin 325 mg PO QPM 
3. Docusate Sodium 100 mg PO BID:PRN constipation 
4. Everolimus 4 mg PO BID 
5. FoLIC Acid 3 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Senna 8.6 mg PO BID:PRN constipation 
9. Sertraline 200 mg PO DAILY 
10. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
11. ValGANCIclovir 450 mg PO Q24H 
12. Vitamin D ___ UNIT PO DAILY 
13. PredniSONE 20 mg PO DAILY 
RX *prednisone 5 mg 4 tablet(s) by mouth for 1 week; then 3 
tablets for 1 week; 2 tablets for 1 week; 1 tablet for 1 week 
Disp #*70 Tablet Refills:*0
14. Tacrolimus 5 mg PO Q12H 
RX *tacrolimus 1 mg 5 capsule(s) by mouth every 12 hours Disp 
#*100 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Mild acute rejection
Post-transplant Chronic Kidney Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your recent 
hospitalization at ___. You were hospitalized after having 
fevers and chills after a liver biopsy. We treated you with IV 
antibiotics but did not find a source of infection. We believe 
your fevers may have been to a transient bloodstream infection 
after the biopsy. Your liver biopsy showed that you were 
suffering from some mild rejection of your new liver. This is 
probably because everolimus and cyclosporine, the two 
immunosuppressant drugs you were taking, were not at adequate 
levels. To treat your rejection, we gave you high doses of 
steroids. Your liver function tests improved, and you were 
switched to oral steroids. You should take this taper as 
prescribed.

We also switched your immunosuppressants. You are now taking 
everolimus and tacrolimus. These two medications still have 
complex interactions, but it is our hope that they will prevent 
any further rejection of your new liver.

Please take your medications as prescribed and follow-up with 
your doctors as below. Please also eat a low carbohydrate diet 
while you are on steroids.

We wish the best!
-Your ___ Team
 
Followup Instructions:
___